US08084621B2
Synthesis of N-(2-hydroxy-3-(pyrrolidin-1-yl)propyl)-2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide (II-15)
Similar procedure as Example 13, 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid (S4) 0.2 g (1.0 mmol) and 1-amino-3-(pyrrolidin-1-yl)propan-2-ol 0.30 g (2.1 mmol) was reacted to give 0.26 g (82%) of the titled compound as a white solid.

reactant | 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid | 1.0 mmol, 0.2 g | CC=1NC=2C(CCCC2C1C(=O)O)=O | C10H11NO3
reactant | 1-amino-3-(pyrrolidin-1-yl)propan-2-ol | 2.1 mmol, 0.30 g | NCC(CN1CCCC1)O | C7H16N2O
product | N-(2-hydroxy-3-(pyrrolidin-1-yl)propyl)-2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide | 0.26 g, 82% | OC(CNC(=O)C1=C(NC=2C(CCCC12)=O)C)CN1CCCC1 | C17H25N3O3
